US04380544
28 g of 2,4-dichlorobenzyl 3-pyridyl ketone are dissolved in 800 ml of dimethylformamide and treated portionwise at 0° with 5.5 g of sodium hydride (50% dispersion in oil). After 2 hours at room temperature, 14.9 g of methyl iodide are added and the mixture is stirred at room temperature for an additional 3 hours. Then the mixture is poured into water and extracted with diethyl ether, and the organic phase is washed and dried over anhydrous sodium sulfate and subsequently concentrated. The product is purified by chromatography on silica gel with n-hexane/ethyl acetate (1:2) to yield 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone as an oil.

reactant | 2,4-dichlorobenzyl 3-pyridyl ketone | 28 g | N1=CC(=CC=C1)C(=O)CC1=C(C=C(C=C1)Cl)Cl | C13H9Cl2NO
reactant | sodium hydride | 5.5 g | [H-].[Na+]
reactant | methyl iodide | 14.9 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)C | C14H11Cl2NO
